US04609650
16β-Ethyl-17β-n-heptanoyloxyacetoxy-4-estren-3-one
In 30 ml of acetone is dissolved 2.6 g of n-heptanoic acid, and 10 ml of 2N-NaOH, 4.2 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one, 30 ml of DMF and 10 ml of water are serially added to the above solution. The mixture is refluxed for 5 hours. After cooling, 400 ml of ethyl acetate is added and the mixture is washed with water and saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent is then distilled off under reduced pressure and the residue is subjected to column chromatography. Following 400 ml of diisopropyl ether-n-hexane (2:3), elution is carried out with 1000 ml of a 1:1 mixture of the same solvents. The eluate is evaporated under reduced pressure to remove the solvent, giving 3.0 g of the above-identified compound as a light-yellow viscous oil.

reactant | n-heptanoic acid | 2.6 g | C(CCCCCC)(=O)O | C7H14O2
reactant | NaOH | [OH-].[Na+]
reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 4.2 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 10 ml | O | H2O
product | 16β-Ethyl-17β-n-heptanoyloxyacetoxy-4-estren-3-one | 3.0 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(CCCCCC)=O)=O | C29H44O5
